US07989454B2
4-[3-{6-[3-Benzo[1,3]dioxol-5-yl-5-(5-oxo-[1,4]diazepane-1-carbonyl)-phenoxy]-hexyl}-2-(2-carboxy-ethyl)-phenoxy]-butyric acid
To a solution of 1-(3-benzo[1,3]dioxol-5-yl-5-hydroxy-benzoyl)-[1,4]diazepan-5-one (0.58 mmol) in a mixture of acetone and DMF (2:1, 2 mL) were added potassium carbonate (10 eq.) and 4-[3-(6-bromo-hexyl)-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (1.1 eq). The resulting mixture was stirred at 75° C. for 2 days. Then the insoluble material was filtered out and the filtrate was diluted with ethyl acetate and washed with water and brine. The organic extract was dried over anhydrous sodium sulfate, concentrated and used for the next step without further purification. The total amount of material from the previous step was dissolved in 1,2-dichloroethane (4 mL), followed by addition of trimethyltin hydroxide (433 mg). The resulting reaction mixture was stirred at 70° C. for 7 days. Then it was neutralized with 5% HCl and extracted into ethyl acetate. The organic extract was washed with water and brine and dried over anhydrous sodium sulfate. The crude material was purified by reverse-phase HPLC to yield the title compound.

reactant | 1-(3-benzo[1,3]dioxol-5-yl-5-hydroxy-benzoyl)-[1,4]diazepan-5-one | 0.58 mmol | O1COC2=C1C=CC(=C2)C=2C=C(C(=O)N1CCNC(CC1)=O)C=C(C2)O | C19H18N2O5
reactant | potassium carbonate | 10 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[3-(6-bromo-hexyl)-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 1.1 eq | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCBr)CCC(=O)OCC)=O | C23H35BrO5
reactant | HCl | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[3-{6-[3-Benzo[1,3]dioxol-5-yl-5-(5-oxo-[1,4]diazepane-1-carbonyl)-phenoxy]-hexyl}-2-(2-carboxy-ethyl)-phenoxy]-butyric acid | O1COC2=C1C=CC(=C2)C=2C=C(OCCCCCCC=1C(=C(OCCCC(=O)O)C=CC1)CCC(=O)O)C=C(C2)C(=O)N2CCNC(CC2)=O | C38H44N2O10
